US04795579
(1) preparation of para-n-hexyl benzoic acid chloride
A solution of 3 g of para-n-hexyl benzoic acid is refluxed in 7 ml of thionyl chloride for 2 hours. The thionyl chloride is eliminated by distillation under atmospheric pressure, followed by the distillation of the acid chloride under reduced pressure and under a dry nitrogen stream. This gives a product with a boiling point of 153° C. under 1.2 mm Hg.

reactant | para-n-hexyl benzoic acid | 3 g | C(CCCCC)C1=CC=C(C(=O)O)C=C1 | C13H18O2
reactant | thionyl chloride | 7 ml | S(=O)(Cl)Cl | Cl2OS
product | para-n-hexyl benzoic acid chloride | C(CCCCC)C1=CC=C(C(=O)Cl)C=C1 | C13H17ClO
